US07081454B2
2-(3,5-Difluoro-2-nitro-phenyl)-malonic acid di-tert-butyl ester:
To a suspension of NaH (54.6 g, 60%, 1.365 mol) in 600 mL of DMF was added di-t-Butyl malonate (118 g, 0.546 mol) at 0° C. and stirred for 30 min. 2,4,6 trifluoronitrobenzene was added as a solution in 400 mL of DMF (75 g, 0.42 mol) over 3 hours and the solution stirred at ambient temperature for 12 hours. The reaction mixture was extracted with ethyl acetate (3×'s). The ethyl acetate was washed with water (3×'s) and with brine and dried over MgSO4 and concentrated to give 62 g of crude product. LCMS [M+Na]−396; 1H NMR (500 MHz, DMSO) δ 7.81 (m, 1H), 7.27 (m, 1H), 5.00 (s, 1H), 1.41 (m, 18H).

reactant | NaH | 1.365 mol, 54.6 g | [H-].[Na+]
reactant | di-t-Butyl malonate | 0.546 mol, 118 g | C(CC(=O)OC(C)(C)C)(=O)OC(C)(C)C | C11H20O4
reactant | 2,4,6 trifluoronitrobenzene | FC1=C(C(=CC(=C1)F)F)[N+](=O)[O-] | C6H2F3NO2
solvent | DMF | 600 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.42 mol, 400 mL, 75 g | CN(C)C=O | C3H7NO
product | 2-(3,5-Difluoro-2-nitro-phenyl)-malonic acid di-tert-butyl ester | 62 g | C(C)(C)(C)OC(C(C(=O)OC(C)(C)C)C1=C(C(=CC(=C1)F)F)[N+](=O)[O-])=O | C17H21F2NO6
